US08304552B2
tert-Butyl 2-((2-aminoethyl)(methyl)amino)ethylcarbamate (400 mg, 1.84 mmol) was taken up in CH3CN (10 mL) along with nicotinic acid (227 mg, 1.84 mmol) and EDCI (353 mg, 2.02 mmol). The resulting reaction mixture was stirred at room temperature for 18 h and then diluted with EtOAc. The organic layer was washed with saturated aqueous NaHCO3, brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (5% MeOH—CH2Cl2) to afford tert-butyl 2-(methyl(2-(nicotinamido)ethyl)amino)ethylcarbamate (180 mg, 30%). MS calculated for C16H26N4O3: 322.2. found: [M+H]+ 323.

reactant | tert-Butyl 2-((2-aminoethyl)(methyl)amino)ethylcarbamate | 1.84 mmol, 400 mg | NCCN(CCNC(OC(C)(C)C)=O)C | C10H23N3O2
reactant | nicotinic acid | 1.84 mmol, 227 mg | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | EDCI | 2.02 mmol, 353 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 2-(methyl(2-(nicotinamido)ethyl)amino)ethylcarbamate | 180 mg, 30% | CN(CCNC(OC(C)(C)C)=O)CCNC(C1=CN=CC=C1)=O | C16H26N4O3
